US04200578
1-Nitro-2-(2-propynylamino)-2-{3-[(thiazol-2-yl)methylthio]propylamino}ethylene
When 2-hydroxymethylthiazole is reacted with 3-mercaptopropylamine hydrochloride [prepared according to the procedure described in J. Org. Chem., 27, 2846 (1962)] in aqueous hydrobromic acid (48%) and the resultant amine successively treated with 1,1-bis(methylthio)-2-nitroethylene and excess propargylamine, the title compound is produced.

reactant | 2-hydroxymethylthiazole | OCC=1SC=CN1 | C4H5NOS
reactant | 3-mercaptopropylamine hydrochloride | Cl.SCCCN
reactant | 1,1-bis(methylthio)-2-nitroethylene | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | propargylamine | C(C#C)N | C3H5N
solvent | hydrobromic acid | Br | BrH
product | 1-Nitro-2-(2-propynylamino)-2-{3-[(thiazol-2-yl)methylthio]propylamino}ethylene | [N+](=O)([O-])C=C(NCCCSCC=1SC=CN1)NCC#C | C12H16N4O2S2
